US04000275
3-Bromo-6-(n-hexyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-bromobenzimidazo[2,1-b]quinazolin-12(6H)one and n-hexyl bromide.

reactant | 3-bromobenzimidazo[2,1-b]quinazolin-12(6H)one | BrC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C14H8BrN3O
reactant | n-hexyl bromide | C(CCCCC)Br | C6H13Br
product | 3-Bromo-6-(n-hexyl)benzimidazo[2,1-b]quinazolin-12(6H)one | BrC1=CC=C2C(N3C(=NC2=C1)N(C1=C3C=CC=C1)CCCCCC)=O | C20H20BrN3O
